US04780565
In a preferred reaction propylene oxide is reacted with methyl acetate to produce methoxypropylacetate.

reactant | propylene oxide | C1C(C)O1 | C3H6O
reactant | methyl acetate | C(C)(=O)OC | C3H6O2
product | methoxypropylacetate | COCCCOC(C)=O | C6H12O3
